US06498163B1
A mixture of 2-methanesulfinyl-8-phenyl-8H-pyrido[2,3-d]pyrimidin-7-one (81 mg, 0.28 mmol) and 1.5 mL of aqueous ethyl amine was stirred at room temperature for 10 minutes then partitioned between water and ethyl acetate. The organic layer was washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give 54 mg (72%) of 2-ethylamino-8-phenyl-8H-pyrido[2,3-d]pyrimidin-7-one, mp 193-195° C.

reactant | 2-methanesulfinyl-8-phenyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.28 mmol, 81 mg | CS(=O)C=1N=CC2=C(N1)N(C(C=C2)=O)C2=CC=CC=C2 | C14H11N3O2S
reactant | ethyl amine | 1.5 mL | C(C)N | C2H7N
product | 2-ethylamino-8-phenyl-8H-pyrido[2,3-d]pyrimidin-7-one | 54 mg, 72% | C(C)NC=1N=CC2=C(N1)N(C(C=C2)=O)C2=CC=CC=C2 | C15H14N4O
